US07067517B2
4-(Methyl-pyridin-3-ylmethyl-amino)-piperidine-1-carboxylic acid 4-(5-trifluoromethyl-pyridin-2-yloxy)-phenyl ester
The title compound was prepared from 4-(5-trifluoromethyl-pyridin-2-yloxy)-phenyl chloroformate and methyl-piperidin-4-yl-pyridin-3-ylmethyl-amine, hydrochloride, praeparative HPLC (Method C) (31%, orange oil). HPLC-MS m/z=487.1 (M+1), Rt: 2.64 min.

reactant | 4-(5-trifluoromethyl-pyridin-2-yloxy)-phenyl chloroformate | ClC(=O)OC1=CC=C(C=C1)OC1=NC=C(C=C1)C(F)(F)F | C13H7ClF3NO3
reactant | methyl-piperidin-4-yl-pyridin-3-ylmethyl-amine, hydrochloride | Cl.CN(CC=1C=NC=CC1)C1CCNCC1
product | 4-(Methyl-pyridin-3-ylmethyl-amino)-piperidine-1-carboxylic acid 4-(5-trifluoromethyl-pyridin-2-yloxy)-phenyl ester | FC(C=1C=CC(=NC1)OC1=CC=C(C=C1)OC(=O)N1CCC(CC1)N(CC=1C=NC=CC1)C)(F)F | C25H25F3N4O3
